US07884109B2
(4R)-4-(2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-5-nitropyrimidin-4-ylamino)-3,4-dihydronaphthalen-1(2H)-one.
A solution of (R)-4-(2-(2-amino-5-fluorophenylamino)-5-nitropyrimidin-4-ylamino)-3,4-dihydronaphthalen-1(2H)-one (120 mg) and CH(OMe)3 (2.5 mL) in MeOH/THF (2.5 mL/10 mL) was stirred at room temperature overnight. Volatiles were removed in vacuo and the residue was purified by PTLC (EtOAc) to afford 80 mg of the title compound.

reactant | (R)-4-(2-(2-amino-5-fluorophenylamino)-5-nitropyrimidin-4-ylamino)-3,4-dihydronaphthalen-1(2H)-one | 120 mg | NC1=C(C=C(C=C1)F)NC1=NC=C(C(=N1)N[C@@H]1CCC(C2=CC=CC=C12)=O)[N+](=O)[O-] | C20H17FN6O3
reactant | CH(OMe)3 | 2.5 mL | C(OC)(OC)OC | C4H10O3
solvent | MeOH THF | 2.5 mL | CO.C1CCOC1
product | (4R)-4-(2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-5-nitropyrimidin-4-ylamino)-3,4-dihydronaphthalen-1(2H)-one | 80 mg | FC=1C=CC2=C(N(C=N2)C2=NC=C(C(=N2)N[C@@H]2CCC(C3=CC=CC=C23)=O)[N+](=O)[O-])C1 | C21H15FN6O3
